US08389511B2
tert-Butyl (3R)-3-(isopropyl{[3-oxo-2-(tetrahydro-2H-pyran-4-yl)-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate
Using tert-butyl (3R)-3-[[5-amino-4-hydroxy 2-(trifluoromethyl)benzoyl](isopropyl)amino]-piperidine-1-carboxylate and bromo (tetrahydro-2H-pyran-4-yl)acetyl chloride, the title compound was obtained in a similar manner to Reference Example 55.

reactant | tert-butyl (3R)-3-[[5-amino-4-hydroxy 2-(trifluoromethyl)benzoyl](isopropyl)amino]-piperidine-1-carboxylate | NC=1C(=CC(=C(C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C1)C(F)(F)F)O | C21H30F3N3O4
reactant | bromo (tetrahydro-2H-pyran-4-yl)acetyl chloride | BrC(C(=O)Cl)C1CCOCC1 | C7H10BrClO2
product | tert-Butyl (3R)-3-(isopropyl{[3-oxo-2-(tetrahydro-2H-pyran-4-yl)-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(NC(C(O2)C2CCOCC2)=O)C1)C(F)(F)F | C28H38F3N3O6
